US07485634B2
Preparation of 1,2,3,6-Tetrahydroazepino[4,5-b]indole-5-carboxylic acid
To a solution of 1,6-dihydro-2H-azepino[4,5-b]indole-3,5-dicarboxylic acid 3-tert-butyl ester 5-methyl ester (0.293 g, 0.62 mmol) in MeOH (4 mL) was added 4 N NaOH (2 mL) and the mixture was heated for 5 hours under nitrogen. After cooling, the reaction mixture was diluted with water and extracted with EtOAc. The aqueous layer was acidified with AcOH. Precipitate was collected by filtration and washed with water and ether and dried under high vacuum to give the title compound (70 mg); 1H-NMR (DMSO-d6): δ11.40 (1H, s), 10.73 (1H, br s), 7.83 (1H, m), 7.73 (2H, d), 7.38 (1H, m), 7.25 (1H, m), 6.88 (2H, m), 3.45 (2H, t), 3.87 (3H, s), 3.2.98 (2H, t), MS (ES): 229 (MH+).

reactant | 1,6-dihydro-2H-azepino[4,5-b]indole-3,5-dicarboxylic acid 3-tert-butyl ester 5-methyl ester | 0.62 mmol, 0.293 g | COC(=O)C1=CN(CCC2=C1NC=1C=CC=CC21)C(=O)OC(C)(C)C | C19H22N2O4
reactant | NaOH | 4 N, 2 mL | [OH-].[Na+]
solvent | MeOH | 4 mL | CO | CH4O
solvent | water | O | H2O
product | 1,2,3,6-Tetrahydroazepino[4,5-b]indole-5-carboxylic acid | 70 mg | C1CNC=C(C=2NC=3C=CC=CC3C21)C(=O)O | C13H12N2O2
